US08076481B2
Preparation of methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoate
To a flask fitted with overhead stirrer, condenser, thermometer and nitrogen line was added methyl 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoate (1.0 eq), 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine (1.05 eq), cesium carbonate (1.5 eq) and dimethylsulfoxide (10 vols) under a nitrogen atmosphere. The contents of the flask were heated to 45° C. for 1.5 hours, then cooled to 22° C. Ethyl acetate (6 vols) and water (6 vols) were added to the flask, the mixture was agitated for 15 minutes, then the layers were separated. Water (3 vols) was added to the organic layer, the batch agitated for 15 minutes, then the layers were separated. This process was repeated with water (3 vols) then saturated brine (6 vols), then with water (6 vols). The organic layer was evaporated on the rotary evaporator to yield the title compound as an oil (93% yield corrected for assay). 1H NMR δ (400 MHz) DMSO: 8.62 (s, 1H), 8.50 (s, 1H), 7.34 (s, 1H), 7.30 (s, 1H), 7.17 (s, 1H), 4.68-4.64 (m, 1H), 4.54-4.49 (t, 2H), 4.07-4.03 (t, 2H), 3.81 (s, 3H), 3.49-3.41 (m, 2H), 3.25 (s, 3H), 2.29-2.22 (m, 2H), 1.20-1.18 (d, 3H).

reactant | methyl 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoate | 1.0 eq | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C12H16O5
reactant | 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine | 1.05 eq | N1(CCC1)C(=O)C1=NC=C(N=C1)Cl | C8H8ClN3O
reactant | cesium carbonate | 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoate | 93% yield | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C20H23N3O6
